US05627202
Step J: N-[(tert-Butyloxy)carbonyl-3(S)-ethylpyrrolidin-2(S)-ylmethyl]-proline
N-[(tert-Butyloxy)carbonyl-3(S)-ethylpyrrolidin-2(S)-ylmethyl]-proline methyl ester 0.081 g, 0.238 mmol) was dissolved in CH3OH (2 mL), cooled to 0° C. and treated with 1N NaOH solution (0.952 mL, 0.952 mmol). After stirring at 23° C. for 3 h, the solution was neutralized with 1N HCl (0.952 mL, 0.952 mmol), concentrated to remove the CH3OH, then lyophilized and the residue used as is.

reactant | N-[(tert-Butyloxy)carbonyl-3(S)-ethylpyrrolidin-2(S)-ylmethyl]-proline methyl ester | 0.238 mmol, 0.081 g | COC([C@H]1N(CCC1)C([C@H]1NCC[C@@H]1CC)C(=O)OC(C)(C)C)=O | C18H32N2O4
reactant | NaOH | 0.952 mmol, 1N, 0.952 mL | [OH-].[Na+]
reactant | HCl | 0.952 mmol, 1N, 0.952 mL | Cl | ClH
solvent | CH3OH | 2 mL | CO | CH4O
product | N-[(tert-Butyloxy)carbonyl-3(S)-ethylpyrrolidin-2(S)-ylmethyl]-proline | C(C)(C)(C)OC(=O)C(N1[C@H](C(=O)O)CCC1)[C@H]1NCC[C@@H]1CC | C17H30N2O4
